US08058447B2
4-(5,6-Difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-5-(3-methylbutanoyl)-1,4-dihydropyridine-3-carbonitrile
A solution of 100 mg (0.45 mmol) of 5,6-difluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde in ml of 2-propanol is mixed with 46.9 mg (0.45 mmol) of sodium 1-cyanoprop-1-en-2-olate, 63 mg (0.45 mmol) of 2-amino-6-methylhept-2-en-4-one and 0.04 ml (0.67 mmol) of acetic acid and stirred under reflux for 3 h. After cooling, the mixture is concentrated. The residue is purified on an Analogix cartridge (F12M) (mobile phase: cyclohexane/ethyl acetate 2:1). 20.9 mg (11.36% of theory) of the title compound are obtained as white crystals.

reactant | 5,6-difluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.45 mmol, 100 mg | FC1=C2C(C=C(OC2=C(C=C1F)C=O)C)=O | C11H6F2O3
reactant | 2-propanol | ml | CC(C)O | C3H8O
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.45 mmol, 46.9 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 2-amino-6-methylhept-2-en-4-one | 0.45 mmol, 63 mg | NC(C)=CC(CC(C)C)=O | C8H15NO
reactant | acetic acid | 0.67 mmol, 0.04 ml | C(C)(=O)O | C2H4O2
product | 4-(5,6-Difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-5-(3-methylbutanoyl)-1,4-dihydropyridine-3-carbonitrile | FC1=C2C(C=C(OC2=C(C=C1F)C1C(=C(NC(=C1C(CC(C)C)=O)C)C)C#N)C)=O | C23H22F2N2O3
